US07737149B2
A solution of tert-butyl 4-(5-formylthien-2-yl)piperazine-1-carboxylate (2.5 1 g, 8.50 mmol) in ethanol (85 ml) was added in one portion to a solution of silver (I) nitrate (10.0 g, 58.8 mmol) and sodium hydroxide (4.83 g, 120.6 mmol) in water (85 ml). This mixture was stirred and heated at 65° C. for 22 h. The mixture was cooled by the addition of ice and then filtered to remove silver salts. The filtrate was carefully evaporated to remove the ethanol and the resulting aqueous solution was filtered again through a glass-fibre pad to remove tarry material. The filtrate was then diluted with water to a total volume of 400 ml and then acidified to pH 5 with acetic acid. The precipitate was filtered off, washed with water and then dried in a vacuum oven at 45° C. overnight to give 5-[4-[(2-methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]thiophene-2-carboxylic acid (1.88 g, 71%).

reactant | tert-butyl 4-(5-formylthien-2-yl)piperazine-1-carboxylate | 8.50 mmol, 1 g | C(=O)C1=CC=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N2O3S
reactant | sodium hydroxide | 120.6 mmol, 4.83 g | [OH-].[Na+]
solvent | ethanol | 85 ml | C(C)O | C2H6O
solvent | water | 85 ml | O | H2O
catalyst | silver (I) nitrate | 58.8 mmol, 10.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-[4-[(2-methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]thiophene-2-carboxylic acid | 1.88 g, 71% | CC(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(S1)C(=O)O | C14H20N2O4S
